US05622969
Preparation of the intermediate 4-(Quinolin-2-ylmethoxy)benzyl chloride.
The procedure from Example 6, part B was used except 4-(quinolin-2-ylmethoxy)benzyl alcohol was substituted for 4-(7-chloroquinolin-2-ylmethoxy)benzyl alcohol. The intermediate was obtained in 47% yield.

reactant | 4-(quinolin-2-ylmethoxy)benzyl alcohol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CO)C=C1 | C17H15NO2
reactant | 4-(7-chloroquinolin-2-ylmethoxy)benzyl alcohol | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC=C(CO)C=C1 | C17H14ClNO2
product | 4-(Quinolin-2-ylmethoxy)benzyl chloride | 47% yield | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CCl)C=C1 | C17H14ClNO
